US07091220B2
1-Ethyl-2-phenyl-3-(pyrrolidin-1-yl-o-tolylmethyl)-1H-indole
The preparation was carried out in accordance with general synthesis instructions 4 from 1-ethyl-2-phenyl-1H-indole and 1-(2-methyl-benzylidene)-pyrrolidinium chloride

reactant | 1-ethyl-2-phenyl-1H-indole | C(C)N1C(=CC2=CC=CC=C12)C1=CC=CC=C1 | C16H15N
reactant | 1-(2-methyl-benzylidene)-pyrrolidinium chloride | [Cl-].CC1=C(C=[N+]2CCCC2)C=CC=C1
product | 1-Ethyl-2-phenyl-3-(pyrrolidin-1-yl-o-tolylmethyl)-1H-indole | C(C)N1C(=C(C2=CC=CC=C12)C(C1=C(C=CC=C1)C)N1CCCC1)C1=CC=CC=C1 | C28H30N2
